US03978097
6.50 g (0.022 mol) of 1-(1-hydroxy-6-isopropoxy-4-methyl-hexyl)-3,4-methylenedioxybenzene are boiled at reflux together with 0.30 g (0.0016 mol) of p-toluenesulphonic acid monohydrate in 500 cc of benzene over the course of 2 hours and using a Dean-Stark trap. After cooling to room temperature, the benzene solution is washed with saturated sodium bicarbonate solution, water and saturated sodium chloride solution, dried with sodium sulphate and evaporated in a vacuum. After chromatography of the residue on silica gel wth hexane/ethyl acetate (98:2), pure 1-(6-isopropoxy-4-methyl-1-hexenyl)-3,4-methylenedioxybenzene is obtained as a colourless oil. nD20 = 1.5258.

reactant | 1-(1-hydroxy-6-isopropoxy-4-methyl-hexyl)-3,4-methylenedioxybenzene | 0.022 mol, 6.50 g | OC(CCC(CCOC(C)C)C)C1=CC2=C(C=C1)OCO2 | C17H26O4
reactant | p-toluenesulphonic acid monohydrate | 0.0016 mol, 0.30 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 500 cc | C1=CC=CC=C1 | C6H6
product | 1-(6-isopropoxy-4-methyl-1-hexenyl)-3,4-methylenedioxybenzene | C(C)(C)OCCC(CC=CC1=CC2=C(C=C1)OCO2)C | C17H24O3
